US06103708
(2-Benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone
At ambient temperature, to a stirred suspension containing 3,5-diisopropyl-p-anisic acid (1.95 g, 8.23 mmol, RN-117439-59-5) and oxalyl chloride (0.8 mL, 9.20 mmol) in CH2Cl2 (22.5 mL) was added N,N-dimethylformamide (2 drops). After 2 h, the reaction was cooled to -78° C. To the reaction was added tin (IV) chloride (1.05 mL) followed by a solution of 2-benzyl-4,5-dimethylfuran (1.8 g, 9.68 mmol) in CH2Cl2 (10.0 mL). After the additions were complete, the reaction was allowed to warm to ambient temperature and stirred for 24 h. The reaction was quenched into crushed ice (100 g), diluted with sat. aq. KH2PO4 (100 mL) and extracted with ether. The combined ethereal extracts were washed with sat aq. NaHCO3 (2×60 mL), with brine (1×60 mL), dried (Na2SO4) and concentrated. The crude product was purified on Biotage KP-Sil eluting with 1% EtOAc/pet. ether to give 2.07 g, (62%) of the title compound as an oil; 1H NMR (DMSO-d6) δ 1.17 (d, 12 H), 1.81 (s, 3 H), 2.19 (s, 3 H), 3.29 (septet, 2 H), 3.74 (s, 3 H), 3.84 (s, 2 H), 7.01-7.03 (m, 2 H), 7.16-7.25 (m, 3 H), 7.47 (s, 2 H). mass spectrum (EI), m/z 404 (M+). Anal. Calcd. for C27H32O3.0.6H2O: C, 78.07; H, 8.06; N, 0.00. Found: C, 78.04; H, 7.93; N, -0.02.

reactant | 3,5-diisopropyl-p-anisic acid | 8.23 mmol, 1.95 g | C(C)(C)C=1C=C(C(=O)O)C=C(C1OC)C(C)C | C14H20O3
reactant | oxalyl chloride | 9.20 mmol, 0.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin (IV) chloride | 1.05 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-benzyl-4,5-dimethylfuran | 9.68 mmol, 1.8 g | C(C1=CC=CC=C1)C=1OC(=C(C1)C)C | C13H14O
solvent | CH2Cl2 | 22.5 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | (2-Benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 62% | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)OC)C(C)C)C)C | C27H32O3
